resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.995724
R2 0 n2 1.001815
R3 0 n4 1.009735
R4 n1 n3 0.984475
R5 n1 n5 1.005182
R6 n2 n3 0.087369
R7 n2 n6 46.904989
R8 n3 n7 1.002334
R9 n4 n5 0.997562
R10 n4 n6 1.019415
R11 n5 n7 1.013599
R12 n6 n7 1.008625
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
